US07960567B2
2-(4-(4-Amino-2-nitrophenoxy)-3-methoxyphenyl)acetic acid (1.1).
A mixture of 4-fluoro-3-nitroaniline (3.45 g, 22.1 mmol), 4-hydroxy-3-methoxyphenylacetic acid (4.03 g, 22.1 mmol) and cesium carbonate (18.0 g, 55.3 mmol) in methylsulfoxide (40 mL) was heated to 120° C. (external temperature, oil bath) overnight. After 16 h the reaction was poured into water and the pH adjusted to <4 by addition of citric acid. The aqueous mixture was extracted twice with ethyl acetate. The combined organic extracts were washed with water then brine. The organic separation was stirred over magnesium sulfate, filtered and the filtrate concentrated in vacuo on a rotary evaporator to afford a dark brown oil. The product was isolated by chromatography on silica gel, eluting with an ethyl acetate/hexane gradient, to afford an orange foamy solid. LC-MS ESI (neg.) m/z: 317.0 (M−H). 1H NMR (400 MHz) (CDCl3) δ 7.27 (d, J=8.4 Hz, 1H); 6.93 (s, 1H); 6.84-6.79 (m, 4H); 5.90 (br s, 2H); 3.85 (s, 31H); 3.63 (s, 2H) ppm.

reactant | 4-fluoro-3-nitroaniline | 22.1 mmol, 3.45 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | 4-hydroxy-3-methoxyphenylacetic acid | 22.1 mmol, 4.03 g | OC1=C(C=C(C=C1)CC(=O)O)OC | C9H10O4
reactant | cesium carbonate | 55.3 mmol, 18.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylsulfoxide | 40 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(4-(4-Amino-2-nitrophenoxy)-3-methoxyphenyl)acetic acid | NC1=CC(=C(OC2=C(C=C(C=C2)CC(=O)O)OC)C=C1)[N+](=O)[O-] | C15H14N2O6
